Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
metoprolol / codeine / iodine
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS

___ 12:30AM BLOOD WBC-13.8* RBC-4.86 Hgb-13.2 Hct-41.6 
MCV-86 MCH-27.2 MCHC-31.7* RDW-14.5 RDWSD-45.2 Plt ___
___ 12:30AM BLOOD Neuts-45 ___ Monos-3* Eos-5 Baso-1 
Metas-1* AbsNeut-6.21* AbsLymp-6.21* AbsMono-0.41 AbsEos-0.69* 
AbsBaso-0.14*
___ 12:30AM BLOOD Plt Smr-NORMAL Plt ___
___ 07:30AM BLOOD ___ PTT-33.6 ___
___ 07:30AM BLOOD Plt ___
___ 12:30AM BLOOD Glucose-110* UreaN-21* Creat-1.0 Na-143 
K-4.8 Cl-107 HCO3-22 AnGap-14
___ 07:30AM BLOOD Calcium-9.7 Phos-3.0 Mg-1.8 Cholest-163

PERTINENT LABS

___ 12:30AM BLOOD cTropnT-<0.01
___ 07:30AM BLOOD cTropnT-<0.01
___ 07:30AM BLOOD Triglyc-87 HDL-59 CHOL/HD-2.8 LDLcalc-87

DISCHARGE LABS

___ 07:37AM BLOOD WBC-12.2* RBC-5.06 Hgb-13.8 Hct-43.5 
MCV-86 MCH-27.3 MCHC-31.7* RDW-14.6 RDWSD-45.6 Plt ___
___ 07:37AM BLOOD Plt ___
___ 07:37AM BLOOD Glucose-121* UreaN-21* Creat-1.0 Na-143 
K-5.0 Cl-104 HCO3-26 AnGap-13
___ 07:37AM BLOOD Calcium-10.2 Phos-4.1 Mg-2.0

IMAGING AND PROCEDURES 

NUCLEAR WALKING STRESS TEST: ___
SUMMARY OF DATA FROM THE EXERCISE LAB: 
Exercise protocol: Modified ___ 
___ duration: 4 minutes 
Reason exercise terminated: Fatigue 
Resting heart rate: 91 
Resting blood pressure: 118/86 
Peak heart rate: 145 
Peak blood pressure: 168/78 
Percent maximum predicted HR: 96% 
Symptoms during exercise: No anginal symptoms. 
ECG findings: No ischemic EKG changes.  
FINDINGS:  Left ventricular cavity size is normal. Resting and 
stress perfusion images reveal uniform tracer uptake throughout 
the left ventricular myocardium. Gated images reveal normal wall 
motion. The calculated left ventricular ejection fraction is 75% 
at rest and 80% post stress. 
IMPRESSION:  Normal myocardial perfusion and function. 

 
Brief Hospital Course:
SUMMARY STATEMENT
Ms. ___ is a ___ year old ___ female w/ HTN, 
HLD, and CAD s/p CABG in ___ in ___, ___ in ___ 
with cardiac catheterization in ___ showing narrowing of 
graft vessels without obstruction, who presented with atypical 
chest pain. She ultimately underwent nuclear treadmill study 
that was normal and remained chest pain free. Stable for 
discharge. 

ACUTE ISSUES: 
============= 
# Chest pain
# Hx of CAD s/p CABG
# HTN
Chest pain is similar, but not identical to prior MI, as she 
does not have left arm pain. Not associated with diaphoresis or 
dyspnea. Remained HDS
with negative troponin and no ST changes on EKG. The patient 
also endorsed
GERD symptoms, which may be contributing as cause of non-cardiac 
chest pain. She underwent a walking nuclear stress that showed 
poor functional exercise capacity, but otherwise appropriate 
heart rate response. There was no evidence of inducible 
ischemia. She remained chest pain free in-house. She was 
continued on her home aspirin and atorvastatin. Her carvedilol 
was increased with improvement in her heart rates and blood 
pressures. Continued home losartan.

# GERD
The patient has an unclear history of GERD, but this may have 
been contributing to her chest pain. The patient was started on 
pantoprazole 40 mg BID, Maalox and calcium carbonate for 
suspected GERD and discharged on pantoprazole 40mg BID.

CHRONIC:
=========
# Type II DM
Held home metformin and placed on insulin sliding scale 
in-house.

TRANSITIONAL ISSUES

[ ] Consider further uptitration of anti-lipid therapies as 
patient not currently at goal LDL <70 on maximum dose 
atorvastatin

[ ] Would continue BID PPI for ___ weeks and then trial off 
medication vs. switch to H2 blocker

[ ] Carvedilol uptitrated to 12.5mg BID; consider further 
uptitration as patient tolerates

# CODE: Full, presumed
# CONTACT: Husband, ___, ___, speaks ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Esomeprazole 20 mg Other DAILY 
2. Atorvastatin 80 mg PO QPM 
3. Losartan Potassium 50 mg PO DAILY 
4. CARVedilol 6.25 mg PO BID 
5. MetFORMIN (Glucophage) 500 mg PO BID 
6. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
2.  CARVedilol 12.5 mg PO BID 
RX *carvedilol 12.5 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 80 mg PO QPM  
5.  Losartan Potassium 50 mg PO DAILY  
6.  MetFORMIN (Glucophage) 500 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
Chest pain
Coronary artery disease, status-post coronary artery bypass 
graft

Secondary
Hypertension
Hyperlipidemia
Gastric esophageal reflux disease 
Type 2 diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

It was a pleasure caring for you at ___ 
___.

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were having chest pain that was concerning given your 
history of heart attacks

WHAT WAS DONE WHILE I WAS IN THE HOSPITAL?
- Your chest pain improved
- You had a stress test that was normal

WHAT SHOULD I DO WHEN I GET HOME FROM THE HOSPITAL?
- Make sure to take all of your medications as prescribed
- Please go to all of your follow-up appointments listed below
- If you have fevers, chills, chest pain, palpitations, 
dizziness, problems breathing, or generally feel unwell, please 
call your doctor or go to the emergency room

Sincerely,
Your ___ Treatment Team
 
Followup Instructions:
___